US04978663
N-[1-(1,6-Dihydro-6-oxo-3-pyridinyl)cyclohexyl]acetamide
Sodium methoxide solution (25% in methanol, 6 ml) was added to a suspension of 5-(1-aminocyclohexyl)-2(1H)-pyridinone hydrochloride (6.0 g) in 100 ml of methanol, and the mixture was stirred at room temperature for 10 minutes. The solvent was removed in vacuo, and the residual solids were suspended in 260 ml of dichloromethane. Poly-4-vinylpyridine (5.42 g), acetic anhydride (2.67 g) and a catalytic amount of 4-(N,N-dimethylamino)pyridine were added, and the mixture was stirred at room temperature for 2 hours. The suspension was filtered and the solid residue was washed with methanol. The filtrate was concentrated, leaving 4.9 g of solid. Recrystallization from methanol gave 1.69 g of product (m.p. 238°-242° C. dec) in two crops, each of which was analytically pure.

reactant | Sodium methoxide | 6 ml | C[O-].[Na+]
reactant | 5-(1-aminocyclohexyl)-2(1H)-pyridinone hydrochloride | 6.0 g | Cl.NC1(CCCCC1)C=1C=CC(NC1)=O
reactant | methanol | 100 ml | CO | CH4O
product | N-[1-(1,6-Dihydro-6-oxo-3-pyridinyl)cyclohexyl]acetamide | 4.9 g | O=C1C=CC(=CN1)C1(CCCCC1)NC(C)=O | C13H18N2O2
